US07456191B2
(5-Bromo-2-chloro-pyrimidin-4-yl)-phenyl-amine
A solution of 11.8 g (52.0 mmol) of 5-Bromo-2,4-dichloropyrimidine in 10 ml of acetonitrile at 0° C. is mixed with 4.73 ml (52.0 mmol) of aniline. The batch is stirred for 3 days at room temperature and finally concentrated by evaporation. The remaining residue is purified by chromatography (hexane/ethyl acetate: 3:1 plus 1% triethylamine). 4.94 g (17.4 mmol, corresponding to 33% of theory) of the product is obtained.

reactant | 5-Bromo-2,4-dichloropyrimidine | 52.0 mmol, 11.8 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | aniline | 52.0 mmol, 4.73 ml | NC1=CC=CC=C1 | C6H7N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (5-Bromo-2-chloro-pyrimidin-4-yl)-phenyl-amine | BrC=1C(=NC(=NC1)Cl)NC1=CC=CC=C1 | C10H7BrClN3
